US04282313
116 ml of benzoyl chloride are added dropwise at a temperature of 25° C. to a suspension of 53 g of thiocarbohydrazide in 350 ml of pyridine with stirring and cooling. After addition, the mixture is stirred for a further 3 hours at room temperature and subsequently mixed with 6 liters of water. The precipitate obtained is separated, dissolved and reprecipitated from methanol/water and, after drying in air is mixed with 1.7 liters of boiling ethyl acetate and after cooling, is suction filtered and dried in the air. 112 g of 1,5-bisbenzoyl-thiocarbohydrazide which melts at 177° to 179° C. with decomposition are obtained.

reactant | benzoyl chloride | 116 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | thiocarbohydrazide | 53 g | NNC(=S)NN | CH6N4S
reactant | water | 6 liters | O | H2O
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 1,5-bisbenzoyl-thiocarbohydrazide | 112 g | C(C1=CC=CC=C1)(=O)NNC(=S)NNC(C1=CC=CC=C1)=O | C15H14N4O2S
